US03947408
Preparation of 1,2,3,5,10,11a-Hexahydro-11H-pyrrolo [2,1-c] [1,4] benzodiazepin-11-one
The above compound, melting point 174°-176°c., is obtained when 1,2,3,11a-tetrahydro-5H-pyrrolo [2,1-c] [1,4] benzodiazepin-5,11(10H)-dione (prepared from proline and isatoic anhydride by the procedure of Example 1) is treated with 1M borane in tetrahydrofuran as described in the procedure of Example 1.

reactant | proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | borane | 1M | B | BH3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1,2,3,5,10,11a-Hexahydro-11H-pyrrolo [2,1-c] [1,4] benzodiazepin-11-one | C1CCN2C1C(NC1=C(C2)C=CC=C1)=O | C12H14N2O
